US04603101
There was added dropwise with vigorous stirring under a nitrogen atmosphere, 62.9 grams (0.34 mole) of 4-chlorostyrene and 250 ml. of dry distilled tetrahydrofuran to 8.9 grams (0.37 mole) of magnesium metal turnings under enough tetrahydrofuran to cover the turnings. The exothermic reaction was controlled by external cooling to keep the temperature below 60° C. After the exotherm had subsided, the reaction mixture was heated at 60° C. for 0.5 hour until most of the magnesium had been consumed. Using a salt-ice bath, the reaction mixture was cooled to 0° C. and a solution of 44 grams (0.23 mole) of t-butyl perbenzoate in 80 ml. of tetrahydrofuran was added a such a rate to maintain the temperature between 0° C. and 5° C. After the addition had been completed, the temperature was allowed to rise to 25° C. with stirring over the course of 2 hours. Reaction mixture was then poured into 1000 ml. of a 3% aqueous hydrochloric acid solution. The oil which formed was extracted from the aqueous solution with 200 ml. portions of ethylether. The ether layers were washed twice with a 10% aqueous sodium hydroxide solution and then with water until the washings were neutral. The ether layer was then dried over sodium sulfate and the ether removed using a rotary evaporator. To the pale-yellow oil which remained was added a small amount of ionol as an inhibitor and the product fractionally distilled. There was obtained 20% yield of 4-t-butoxystyrene having a boiling point of 45°-46° C. at 0.03 millimeters. The proton NMR spectrum was recorded and is in agreement with the structure of the product. Elemental analysis calculated for C12H16O: %C, 81.82; %H, 9.09. Found: %C, 81.64; %H, 8.89.

reactant | 4-chlorostyrene | 0.34 mole, 62.9 grams | ClC1=CC=C(C=C)C=C1 | C8H7Cl
reactant | magnesium | 0.37 mole, 8.9 grams | [Mg] | Mg
reactant | t-butyl perbenzoate | 0.23 mole, 44 grams | C1=CC=CC=C1C(=O)OOC(C)(C)C | C11H14O3
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-t-butoxystyrene | 20% yield | C(C)(C)(C)OC1=CC=C(C=C)C=C1 | C12H16O
